US04155996
7 g of potassium carbonate and 8.9 g of O,O-diethyl chlorothiophosphate were added to a solution of 10.9 g of 2,5-dicarbomethoxy-3-hydroxy-thiophene in 500 ml of acetone and the mixture was stirred for 15 hours at 20° C. and was then filtered. The filtrate was evaporated to dryness and the residue was empasted with a 10-1 petroleum ether-isopropyl ether mixture. The mixture was vacuum filtered and the precipitate was crystallized from ethanol to obtain 8.5 g of 2,5-dicarbomethoxy-3-(diethoxythiophosphoryloxy)-thiophene melting at 50° C.

reactant | potassium carbonate | 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-diethyl chlorothiophosphate | 8.9 g | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
reactant | 2,5-dicarbomethoxy-3-hydroxy-thiophene | 10.9 g | C(=O)(OC)C=1SC(=CC1O)C(=O)OC | C8H8O5S
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 2,5-dicarbomethoxy-3-(diethoxythiophosphoryloxy)-thiophene | 8.5 g | C(=O)(OC)C=1SC(=CC1OP(=S)(OCC)OCC)C(=O)OC | C12H17O7PS2
